US09126981B2
Synthesis of 2-(benzyloxycarbonylaminooxy)acetic Acid (Compound VI-7)
A solution of carboxymethoxylamine hemihydrochloride (5.47 g, 50 mmol) in water (100 ml) was stirred at room temperature for 0.5 hr. Sodium bicarbonate (12.6 g, 150 mmol) and a solution of benzyl chloroformate (8.57 ml, 60 mmol) in tetrahydrofuran (25 ml) were added and the mixture was stirred at room temperature for 21 hr. The reaction mixture was diluted with diethyl ether (250 ml) and washed with 1N—NaOH aq. (50 ml). The aqueous layer was acidified with 5N—HCl aq. (25 ml) and extracted with ethyl acetate (250 ml). The organic layer was washed with water (250 ml) and brine (250 ml), dried over magnesium sulfate and filtered. The filtrate was concentrated in vacuo to obtain the title compound (8.35 g, 74%).

reactant | carboxymethoxylamine hemihydrochloride | 50 mmol, 5.47 g | Cl.C(=O)(O)CON.C(=O)(O)CON
reactant | Sodium bicarbonate | 150 mmol, 12.6 g | C([O-])(O)=O.[Na+]
reactant | benzyl chloroformate | 60 mmol, 8.57 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 2-(benzyloxycarbonylaminooxy)acetic Acid | 8.35 g, 74% | C(C1=CC=CC=C1)OC(=O)NOCC(=O)O | C10H11NO5
